US09334269B2
To a stirred solution of 4-(4-trifluoromethyl-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (2.5 g, 0.00783 mol) (prepared as described in Reference G above) in ethanol (23.0 mL) was added 10% Pd/C (826 mg, 0.00078 mol) under N2 atmosphere and the mixture was allowed to stir at RT overnight under hydrogen atmosphere. The reaction mixture was filtered through cellite, washing with EtOAc (2×100 mL). The filtrate was concentrated under reduced pressure to obtain 4-(4-trifluoromethyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (2 g, 80%).

reactant | 4-(4-trifluoromethyl-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.00783 mol, 2.5 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=C1)C(F)(F)F | C17H20F3NO2
solvent | ethanol | 23.0 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.00078 mol, 826 mg | [Pd] | Pd
product | 4-(4-trifluoromethyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 2 g, 80% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)C(F)(F)F | C17H22F3NO2
